US08791123B2
(R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)-N-(2-morpholinoethyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method as described in Example 4, using (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation G) and 2-morpholinoethanamine (1.5 equiv.). The title compound was obtained as a white solid (65% yield). MS (apci) m/z=469.1 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)OC | C18H17FN4O3
reactant | 2-morpholinoethanamine | 1.5 equiv. | O1CCN(CC1)CCN | C6H14N2O
product | (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)-N-(2-morpholinoethyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NCCN2CCOCC2)OC | C24H29FN6O3
